US04925849
Sodium hydride (60%, 110mg) was added to a solution of 1-(2-diethoxyphosphorylacetyl)-2-ethylpiperidine (0.80 g) in tetrahydrofuran (5 ml) at 7° C. under nitrogen atmosphere. A solution of 4-methyl-2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde (0.50 g) in tetrahydrofuran (5 ml) was added dropwise to the above solution at 10° C., and then stirred at room temperature for 1 hour. After evaporating the solvent, in vacuo saturated sodium chloride aqueous solution (20 ml) was added to the residue and extracted with ethyl acetate (20 ml ×2). Combined extracts were washed with saturated sodium chloride aqueous solution (20 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (20 g) with chloroform as an eluent. The fractions containing the objective compound were combined and evaporated in vacuo to give 1-[3-(4-methyl-2-phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-ethylpiperidine (trans isomer) (788 mg) as an oil.

reactant | Sodium hydride | 110mg | [H-].[Na+]
reactant | 1-(2-diethoxyphosphorylacetyl)-2-ethylpiperidine | 0.80 g | C(C)OP(=O)(OCC)CC(=O)N1C(CCCC1)CC | C13H26NO4P
reactant | 4-methyl-2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde | 0.50 g | CC=1C=2N(C=CC1)N=C(C2C=O)C2=CC=CC=C2 | C15H12N2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[3-(4-methyl-2-phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-ethylpiperidine | 788 mg | CC=1C=2N(C=CC1)N=C(C2C=CC(=O)N2C(CCCC2)CC)C2=CC=CC=C2 | C24H27N3O
